US05587504
Synthesis of Methyl 2-(4'-bromomethylphenyl)benzoate
10.0 g (41 mmol) of methyl 2-(4'-hydroxymethylphenyl)benzoate was dissolved in 7.9 g of pyridine and n-hexane (100 ml). 8.3 g (31 mmol) of phosphorus tribromide was dropwise added thereto under cooling with ice, followed by stirring for 2 hours as such. The reaction liquid was added to an aqueous solution of sodium hydrogencarbonate, followed by the extraction with n-hexane. The organic phase was washed with water, dried and subjected to vacuum concentration. The residue was purified by silica gel column chromatography (a n-hexane/ethyl acetate system) to give 9.5 g of the title compound (yield 75%).

reactant | methyl 2-(4'-hydroxymethylphenyl)benzoate | 41 mmol, 10.0 g | OCC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC=C1 | C15H14O3
reactant | phosphorus tribromide | 31 mmol, 8.3 g | P(Br)(Br)Br | Br3P
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | pyridine | 7.9 g | N1=CC=CC=C1 | C5H5N
solvent | n-hexane | 100 ml | CCCCCC | C6H14
product | Methyl 2-(4'-bromomethylphenyl)benzoate | 9.5 g, yield 75% | BrCC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC=C1 | C15H13BrO2
